US08557834B2
N-({1-Cyclohexyl-3-[(2,4-dimethylphenyl)methyl]-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine
A mixture of ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate (340 mg, 1.0 mmoles), pulv. Potassium carbonate (740 mg, 5.35 mmoles) and 2,4-dimethylbenzyl bromide (400 mg, 2.0 mmoles) in dimethylformamide (5 mL) was vigorously stirred at 100° C. for 3 hours. The mixture was poured into 1 molar hydrochloric acid and extracted with ethyl acetate. The organic solution was washed with 1 molar hydrochloric acid and evaporated. The residue was purified by flash chromatography (10-50% ethyl acetate in hexane), the required fractions evaporated, dissolved in ethanol (5 mL) and 1 molar sodium hydroxide solution (1.0 mL) and 6 molar sodium hydroxide solution (1.0 mL) added. The mixture was stirred overnight, acidified and extracted with ethyl acetate (×2), the combined extracts washed with 1 molar hydrochloric acid, dried and evaporated to give the title compound (173 mg, 40%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.10 (br. s., 1 H), 10.15 (br. s., 1 H), 2.31 (s, 3 H), 2.18-2.29 (m, 5 H), 1.78 (d, J=13.14 Hz, 2 H), 1.62 (d, J=10.36 Hz, 3 H), 1.28 (q, J=12.72 Hz, 2 H), 1.12 (t, J=12.88 Hz, 1 H).

reactant | ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate | 1.0 mmoles, 340 mg | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)OCC)=O)=O | C15H21N3O6
reactant | Potassium carbonate | 5.35 mmoles, 740 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dimethylbenzyl bromide | 2.0 mmoles, 400 mg | CC1=C(CBr)C=CC(=C1)C | C9H11Br
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-({1-Cyclohexyl-3-[(2,4-dimethylphenyl)methyl]-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine | 173 mg, 40% | C1(CCCCC1)N1C(N(C(C(=C1O)C(=O)NCC(=O)O)=O)CC1=C(C=C(C=C1)C)C)=O | C22H27N3O6
